US09328067B2
3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]-N-ethyl-N-methylpropanamide
To a solution of 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]-N-ethyl-N-methylpropanamide (119 mg, 0.256 mmol) in CH2Cl2 (5 ml) was added mCPBA (61 mg, ˜0.26 mmol). The reaction was stirred at room temperature for 1 hour and was concentrated. The residue was purified by flash column chromatography on silica gel (50-100% EtOAc in hexane, then 10% MeOH in CH2Cl2) to yield the title compound (53 mg, 43%) as a mixture of amide bond cis-trans isomers.

reactant | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]-N-ethyl-N-methylpropanamide | 0.256 mmol, 119 mg | ClC1=CC(=C(C=C1)SCCC(=O)N(C)CC)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C18H19Cl2FN2O3S2
reactant | mCPBA | ˜0.26 mmol, 61 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]-N-ethyl-N-methylpropanamide | 53 mg, 43% | ClC1=CC(=C(C=C1)S(=O)CCC(=O)N(C)CC)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C18H19Cl2FN2O4S2
